US06852713B2
Step 7E: 2-[4,5-Dimethoxy-2-(morpholine-4-sulfonyl)-phenyl]-pent-4-enoic acid
To a stirred mixture 2-[4,5-dimethoxy-2-(morpholine-4-sulfonyl)-phenyl]-pent-4-enoic acid benzyl ester (3.25 g, 6.83 mmol) in methanol (28 cm3) under an atmosphere of dry nitrogen was added sodium hydroxide (820 mg, 20.5 mmol) dissolved in water (7 cm3). The mixture completely dissolved while stirring at ambient temperature for 20 hours. The volatile fractions were removed in vacuo and water (30 cm3) was added to the mixture. The aqueous mixture acidified with 6N HCl to pH 1.0 and was extracted with dichloromethane (3×30 cm3). The combined extracts were washed with brine (30 cm3), dried over sodium sulfate, vacuum filtered and the filtrate volatile fractions removed in vacuo to a crude golden oil. The oil was triturated in Et2O (30 cm3), vacuum filtered, washed with Et2O (2×10 cm3) and vacuum dried to constant weight to afford the title compound as (2.30 g, 87.54%) with a positive ion ESI (M+H)+386.2.

reactant | 2-[4,5-dimethoxy-2-(morpholine-4-sulfonyl)-phenyl]-pent-4-enoic acid benzyl ester | 6.83 mmol, 3.25 g | C(C1=CC=CC=C1)OC(C(CC=C)C1=C(C=C(C(=C1)OC)OC)S(=O)(=O)N1CCOCC1)=O | C24H29NO7S
reactant | sodium hydroxide | 20.5 mmol, 820 mg | [OH-].[Na+]
solvent | methanol | 28 cm3 | CO | CH4O
solvent | water | 7 cm3 | O | H2O
product | 2-[4,5-Dimethoxy-2-(morpholine-4-sulfonyl)-phenyl]-pent-4-enoic acid | COC1=CC(=C(C=C1OC)C(C(=O)O)CC=C)S(=O)(=O)N1CCOCC1 | C17H23NO7S
